US06995144B2
2-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]methoxy-benzamide
After dissolving 106 mg of 3-tert-butoxypyrazine-2-carboxaldehyde and 105 mg of 4-(2-carbamoylphenoxymethyl)piperidine in 5 ml of dichloromethane, 153 mg of sodium triacetoxyborohydride was added and the mixture was stirred overnight at room temperature. Aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (171 mg, 95% yield).

reactant | 3-tert-butoxypyrazine-2-carboxaldehyde | 106 mg | C(C)(C)(C)OC=1C(=NC=CN1)C=O | C9H12N2O2
reactant | 4-(2-carbamoylphenoxymethyl)piperidine | 105 mg | C(N)(=O)C1=C(OCC2CCNCC2)C=CC=C1 | C13H18N2O2
reactant | sodium triacetoxyborohydride | 153 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]methoxy-benzamide | 171 mg, 95% yield | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)COC1=C(C(=O)N)C=CC=C1 | C22H30N4O3
